US07943669B2
Step A: {4-[3-Isobutoxy-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid Ethyl Ester
{4-[3-Hydroxy-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methylphenoxy}-acetic acid ethyl ester (250 mg; 0.57 mmol), 2-methyl-propan-1-ol (0.078 mL; 0.85 mmol) and tributylphosphine (0.31 mL; 1.25 mmol) were dissolved in THF (15 mL) in a dried reaction flask under an atmosphere of nitrogen. 1,1′-(Azodicarbonyl)dipiperidine (0.31 g; 1.25 mmol) was dissolved in THF (10 mL) and added to the reaction mixture. After stirring for 16 h the reaction mixture was evaporated to dryness and purified by prep. HPLC (method B). Yield: 200 mg. HPLC-MS: m/z: 498.1 (M+); Rt: 2.03 min

reactant | {4-[3-Hydroxy-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methylphenoxy}-acetic acid ethyl ester | 0.57 mmol, 250 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CCN1CCOCC1)O)C)=O | C24H27NO5S
reactant | 2-methyl-propan-1-ol | 0.85 mmol, 0.078 mL | CC(CO)C | C4H10O
reactant | tributylphosphine | 1.25 mmol, 0.31 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(Azodicarbonyl)dipiperidine | 1.25 mmol, 0.31 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | {4-[3-Isobutoxy-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid Ethyl Ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CCN1CCOCC1)OCC(C)C)C)=O | C28H35NO5S
